US04540428
Preparation of N-(3-Bromopropyl)Phosphoramidic Dichloride
To a three-necked flask fitted with a thermometer, distillation column and a nitrogen tube was added 3-bromopropylamine hydrobromide (12 g, 0.055 mol) and 20 mL of POCl3 (0.22 mol). The reaction mixture was heated to reflux under nitrogen overnight. Excess POCl3 was removed at the pump at room temperature (attempted distillation resulted in decomposition). The crude dichloridate, 15.4 g, was used directly in the procedure of the following Example V.

reactant | 3-bromopropylamine hydrobromide | 0.055 mol, 12 g | Br.BrCCCN
reactant | POCl3 | 0.22 mol, 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | N-(3-Bromopropyl)Phosphoramidic Dichloride | BrCCCNP(=O)(Cl)Cl | C3H7BrCl2NOP
